US04310467
To a stirred solution of 3.7 g of (20S)-1α,3β-bis[(tetrahydro-2H-pyran-2-yl)oxy]-20-methylpregn-5-en-21-ol in 5 ml of pyridine at 0° was added a solution of 1.77 g of p-toluenesulfonyl chloride in 3 ml of pyridine dropwise over 10 min. After 165 min. at 0°, the mixture was poured into ice water and extracted with ether. The ether extract was washed with water, dried (Na2SO4) and evaporated under reduced pressure. The residue was dissolved in 100 ml of toluene, concentrated in a 50° bath at 11 mm and applied to 80 g of silica gel containing 1% pyridine. Elution with hexane--ether, 7:3, afforded 3.49 g (73%) of (20S)-1α,3β-bis[(tetrahydro-2H-pyran-2-yl)oxy]-20-methyl-21-(p-toluenesulfonyloxy)pregn-5-ene as a white amorphous solid.

reactant | (20S)-1α,3β-bis[(tetrahydro-2H-pyran-2-yl)oxy]-20-methylpregn-5-en-21-ol | 3.7 g | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C32H52O5
reactant | p-toluenesulfonyl chloride | 1.77 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | (20S)-1α,3β-bis[(tetrahydro-2H-pyran-2-yl)oxy]-20-methyl-21-(p-toluenesulfonyloxy)pregn-5-ene | 3.49 g, 73% | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](COS(=O)(=O)C5=CC=C(C=C5)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C39H58O7S
